US09428499B2
Step c: Synthesis of 1-(3-aminophenyl)cyclopropanecarboxamide
Triethylsilane (7.75 ml, 48.5 mmol) was added dropwise to a suspension of 1-(3-nitrophenyl)cyclopropanecarboxamide (1 g, 4.85 mmol) and Pd/C (10%, 250 mg) in MeOH (20 ml). Resulting suspension was stirred at RT for 20 min. and filtered through celite. The filtrate was evaporated and triturated in hexane to obtain the crystals which were collected by filtration to afford the title compound (0.68 g).

reactant | Triethylsilane | 48.5 mmol, 7.75 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | 1-(3-nitrophenyl)cyclopropanecarboxamide | 4.85 mmol, 1 g | [N+](=O)([O-])C=1C=C(C=CC1)C1(CC1)C(=O)N | C10H10N2O3
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | 1-(3-aminophenyl)cyclopropanecarboxamide | 0.68 g | NC=1C=C(C=CC1)C1(CC1)C(=O)N | C10H12N2O
